Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
solid food dysphagia
 
Major Surgical or Invasive Procedure:
___ Endoscopy w/ biopsy 

 
History of Present Illness:
Mr ___ is a ___ year old man without significant PMH 
who is admitted to ___ for monitoring after an esophageal food 
impaction.  
Mr ___ was in his USOH until 1500 on ___. At that time, he 
was eating a hotdog when it became lodged in his esophagus. He 
experienced significant esophageal dysphagia and chest pain 
(localized to the the manubrium sternum), but no respiratory 
distress.  

He attempted to dislodge the stuck food with drinking fluids, 
but this only caused him to regurgitate the newly ingested 
material without relief of symptoms. He has not had this occur 
in the past, though he descrbes other, milder episodes of 
esophageal dysphagia with minimal chest pain and delayed passage 
of food boluses. Has had to cut up his food into small pieces to 
get things to pass. Has had no issue with fluids. No weight 
loss, night sweats. He had been previously referred for an 
outpatient endoscopy, but this had not yet been completed. He 
reported to ___ for his symptoms where he was trialed with 
glucagon and a PO challenge, but this resulted in regurgitation. 
As BID-M did not have the ability for disimpaction, he was 
transferred to ___.  

Upon arrival to ___, Mr ___ vitals were 3 97.8 82 134/77 
18 99% RA. He was not given any mediations, nor had any imaging 
studies but was rather taken to the endoscopy suite where the 
impacted food bolus was removed with ___ net. Distal to the 
site of impaction there was a friable mass-like tissue. Biopsies 
of this site were performed and sent for histology. He was 
transferred briefly to the ___ before being transferred to ___ 
7 for overnight monitoring.  

On the floor, Mr ___ says he feels well. Has some cough after 
the procedure, but not pain. No hemoptysis. Last BM was ___ 
AM. Still passing gas.  

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies 
palpitations. Denies diarrhea, constipation or abdominal pain. 
No recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.  

 
Past Medical History:
COPD  
History of vitamin D deficiency  
S/P melanoma surgery  
 
Social History:
___
Family History:
Mother: died of brain Tumor
Father: died of MI
 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vital Signs: 97.2 131-67 72 20 96/3L 58kg  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
lymph: No supraclavicular, cervical or periumbical adenopathy.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 

DISCHARGE PHYSICAL EXAM

Vitals:  98.7 | 108/63 | 75 | 18 | 96% RA
General: alert, oriented, conversant, no acute distress  
HEENT: sclera anicteric, no conjunctival pallor moist mucous 
membranes, no gross oral lesions  
Lungs: clear to auscultation bilaterally without adventitious 
sounds
CV: regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: normoactive bowel sounds, soft, non-tender, 
non-distended, bowel sounds present
Ext: warm, well perfused, no pedal edema
Skin: numerous hyperpigmented macules throughout bodies 
Neuro: CNs2-12 intact, motor function grossly normal, moving all 
extremities to command  
 
Pertinent Results:
HEMATOLOGY
==========

___ 06:07AM BLOOD WBC-6.0 RBC-4.18* Hgb-13.9 Hct-41.6 
MCV-100* MCH-33.3* MCHC-33.4 RDW-13.2 RDWSD-48.7* Plt ___
___ 10:27PM BLOOD WBC-6.9 RBC-4.33* Hgb-14.5 Hct-43.1 
MCV-100* MCH-33.5* MCHC-33.6 RDW-13.3 RDWSD-49.0* Plt ___
___ 10:27PM BLOOD Neuts-69.6 Lymphs-18.4* Monos-10.0 
Eos-0.6* Baso-1.0 Im ___ AbsNeut-4.80 AbsLymp-1.27 
AbsMono-0.69 AbsEos-0.04 AbsBaso-0.07

ELECTROLYTES
============

___ 06:07AM BLOOD Glucose-130* UreaN-7 Creat-0.6 Na-136 
K-3.8 Cl-101 HCO3-26 AnGap-13
___ 10:27PM BLOOD Glucose-77 UreaN-5* Creat-0.5 Na-140 
K-4.0 Cl-104 HCO3-20* AnGap-20

IMAGING
=======

___ CT CHEST W/CONTRAST 
  
4 cm circumscribed mass with substantial mass effect on the 
upper esophagus. ___ represent a non esophageal malignancy 
including central lung malignancy versus very exophytic 
esophageal mass. Subcarinal and lower mediastinal lymph nodes 
are borderline enlarged. Moderate to severe emphysema and 
airways disease. Lower lobe ground-glass and nodular opacities 
likely related to aspiration given the posteromedial and 
peripheral distribution. Diffuse thickening of the left adrenal 
and slight nodularity of the right adrenal. Subcentimeter 
hypodensities in the liver are too small to characterize.  
Correlation with abdominal CT and/or PET-CT. 

PATHOLOGY
=========

___
Esophageal pathology final results:
High grade squamous dysplasia/squamous cell carcinoma in situ 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with significant alcohol and 
smoking history who presents as OSH transfer for management of 
food impaction and found to esophageal mass concerning for 
malignancy.

PRIMARY ISSUES
#Esophageal Mass, Squamous or Adenocarcinoma
Patient presents after experiencing second episode of food 
impaction and after endoscopy was found to have friable tissue 
in esophagus concerning for malignancy. Biopsy was performed 
which preliminarily revealed high grade dysplasia/squamous cell 
carcinoma in situ. Patient was evaluated with CT which was 
notable for 4 cm circumscribed mass with substantial mass effect 
on the upper esophagus. Diffuse thickening of the left adrenal 
and slight nodularity of the right adrenals were also 
appreciated. Subcentimeter hypodensities in the liver are too 
small to characterize but increased concern for metastatic 
progression of disease. To continue to facilitate this patient's 
care he was referred to an oncologist at ___ by his PCP. 
He will need referral to a Thoracic surgeon for evaluation into 
potential resection.

ACTIVE ISSUES:
#COPD
Radiographic evidence of emphysematous lung changes in the 
setting of 50 pack year history of smoking. Outpatient PFTs are 
recommended for further evaluation. Smoking cessation advised 
and quit plan using nicotine replacement therapy outlined for 
patient.

#Smoking Cessation
Patient has 50 pack year smoking history of smoking reports 
trying to quit once with nicotine patch and failing. Patient is 
advised to use nicotine patch in addition to nicotine lozenges 
for improved success while attempting smoking cessation. 
Quitline number provided and QuitWorks website URL provided.

CHRONIC ISSUES
#Alcohol Use
Patient reported approximately ___ years of drinking a 6 pack of 
beer per day. Last drink prior to admission was ___. During 
this admission he was monitored with the CIWA scale. He had no 
evidence of withdrawal while in house. 

TRANSITIONAL ISSUES
====================
[ ] follow up on esophageal biopsy pathology report to 
finalization
[ ] PCP referral to thoracic surgery for possible resection
[ ] PCP referral to oncologist (confirmed with PCP)
[ ] follow up with outpatient oncologist to establish treatment 
plan
[ ] outpatient PFTs given evidence of COPD on CT
[ ] encourage ongoing smoking cessation
[ ] encourage alcohol cessation

CODE STATUS: FULL CODE
CONTACT: friend ___ ___
 
___ on Admission:
None
 
Discharge Medications:
1. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*3
2. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#Esophageal Carcinoma, Squamous or Adenocarcinoma

SECONDARY DIAGNOSIS
#COPD
#Alcohol Use 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ after experiencing difficulty swallowing. 
You were evaluated and subsequently transferred to ___ 
___ in ___ for further management. Upon 
arrival you were evaluated and endoscopy was performed which 
disimpacted the food stuck in your esophagus. Notably, we saw 
changes in your esophagus that were concerning for cancer. A 
biopsy of this tissue was done and preliminarily showed 
esophageal cancer. We also performed a CT scan of your chest to 
better evaluate these changes and found a mass in your 
esophagus. As discussed, this is most likely esophageal cancer 
and you will need further workup and referral to an Oncologist 
as an outpatient to better understand prognosis and treatment 
options available to you. Your PCP ___ to refer you to Oncology 
in the ___ system within the next few weeks. You will also 
need referral to a Thoracic surgeon to see if this mass can be 
removed.

In the interim please be mindful and eat a pureed or soft diet 
to avoid future food impaction before a treatment plan is 
established to advance your care.  We recommend avoidance of 
stringy, tough meats or large bites of food. You will need to 
chew your food well before swallowing and follow each bite with 
plenty of water/fluids. 

Lastly, your imaging showed evidence of COPD a disease process 
frequently seen with long-time smokers. We recommend outpatient 
PFT testing with a pulmonologist to further characterize this 
issue. Regarding your desire to quit smoking please consider 
using nicotine lozenges and nicotine patches. Below is a sample 
smoking cessation regimen using patches and lozenges.

TO QUIT SMOKING:
===============
- SET A QUIT DATE: Pick a date that would work for you and stick 
to it!
- use a 21mg nicotine patch applied to arm per day for ___ weeks
- exchange patch each day
- use ___ gum pieces or ___ lozenges for cravings throughout the 
day as needed
- if you slip up and smoke a cigarette -- DON'T GIVE UP!! It is 
normal to have some cheating when you start but be mindful of 
this and avoid cigarettes if possible
- after using the 21mg patch for ___ weeks, switch to the 14 mg 
patch for 2 weeks. You can continue to use the gum/lozenges for 
cravings
- after using the 14 mg patch for 2 weeks, switch to the 7 mg 
patch for 2 weeks.
- after the 2 weeks of using the 7 mg patch you can discontinue 
the patches all together

OTHER RESOURCES FOR QUITTING SMOKING:
=====================================
- ___/
- ___

It was a pleasure taking care of you. Good luck!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___